US07365200B2
Ethylmalonyl chloride (1.93 mL, 15.22 mmol) was added to a solution of methyl-3-amino-thiophene-2-carboxylate (2 g, 12.70 mmol) in dry toluene (20 mL) and pyridine (1.23 mL, 15.22 mmol) at −10° C. The solution was stirred at −10° C. for 1 h and poured into ice water. The product was extracted by ethyl acetate. The combined organic phase was sequentially washed by diluted HCl solution, saturated NaHCO3 solution, water, and brine. The organic phase was dried over MgSO4 and concentrated to yield an oily residue. The residue was dissolved in hot ethanol and kept overnight at −4° C. The crystals formed were filtered off and filtrate was concentrated to yield 2.2 g (63%) of 3-(2-ethoxycarbonyl-acetylamino)-thiophene-2-carboxylic acid methyl ester as yellow viscous oil. 1H NMR (400 MHz, DMSO-d6) δ 1.21 (t, J=7.2 Hz, 3H), 3.68 (s, 2H), 3.84 (s, 3H), 4.15 (q, J=7.2 Hz, 2H), 7.91 (d, J=5.2 Hz, 1H), 7.93 (d, J=5.2 Hz, 1H), 10.52 (s, 1H) ppm; MS m/z=272 amu (M++1).

reactant | Ethylmalonyl chloride | 15.22 mmol, 1.93 mL | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | methyl-3-amino-thiophene-2-carboxylate | 12.70 mmol, 2 g | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | pyridine | 15.22 mmol, 1.23 mL | N1=CC=CC=C1 | C5H5N
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-ethoxycarbonyl-acetylamino)-thiophene-2-carboxylic acid methyl ester | 2.2 g, 63% | COC(=O)C=1SC=CC1NC(CC(=O)OCC)=O | C11H13NO5S
